US09446130B2
The solution of methyl 4-oxocyclohexanecarboxylic acid (172.0 g, 1.01 mol), morpholine (97.0 g, 1.11 mol) and p-toluenesulfonic acid (200 mg) in toluene (500 mL) was stirred 18 h at reflux. The reaction mixture was concentrated in vacuum to give 235 g methyl 4-morpholinocyclohex-3-enecarboxylic acid. The compound was used in the next reaction without further purification.

reactant | methyl 4-oxocyclohexanecarboxylic acid | 1.01 mol, 172.0 g | CC1(CCC(CC1)=O)C(=O)O | C8H12O3
reactant | morpholine | 1.11 mol, 97.0 g | N1CCOCC1 | C4H9NO
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | methyl 4-morpholinocyclohex-3-enecarboxylic acid | 235 g | CC1(CC=C(CC1)N1CCOCC1)C(=O)O | C12H19NO3
